US04670536
In dimethylacetamide, 98 g of maleic anhydride was reacted with 135 g of p-aminoacetophenone at 140° C. for 4 hours. After the reaction, methyl alcohol was added to the reaction solution to precipitate a solid. The precipitate was recovered by filtration and dried in vacuo to obtain 139 g (a yield of 65%) of p-maleimidoacetophenone.

reactant | maleic anhydride | 98 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | p-aminoacetophenone | 135 g | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | methyl alcohol | CO | CH4O
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | p-maleimidoacetophenone | yield of 65% | C1(C=CC(N1C1=CC=C(C=C1)C(C)=O)=O)=O | C12H9NO3
